US06413974B1
2-Chloro-6-[3-(1-imidazolyl)propylamino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 1-(3-aminopropyl)imidazole, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 1-(3-aminopropyl)imidazole | NCCCN1C=NC=C1 | C6H11N3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[3-(1-imidazolyl)propylamino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCCCN1C=NC=C1 | C16H20ClN7
